US07834197B2
Preparation of N-methoxymethyl-N-methylpyrrolidinium fluoride
A 0.44 g quantity of potassium fluoride (product of Wako Pure Chemical Ind. Ltd.) was dissolved in 11 g of deionized water, and 1.74 g of N-methoxymethyl-N-methylpyrrolidinium perchlorate was added to the solution. The mixture was reacted at room temperature for 1.5 hours, whereby the reaction was terminated. With addition of 100 ml of methanol, the reaction mixture was filtered. The filtrate was concentrated and dried in a vacuum. The residue was then dissolved in dichloromethane, the solution was again filtered with a membrane filter, and the filtrate was concentrated and dried, giving 1.05 g of the desired product.

reactant | potassium fluoride | [F-].[K+]
reactant | N-methoxymethyl-N-methylpyrrolidinium perchlorate | 1.74 g | Cl(=O)(=O)(=O)[O-].COC[N+]1(CCCC1)C
solvent | water | 11 g | O | H2O
product | N-methoxymethyl-N-methylpyrrolidinium fluoride | 1.05 g | [F-].COC[N+]1(CCCC1)C | InChI=1S/C7H16NO.FH/c1-8(7-9-2)5-3-4-6-8;/h3-7H2,1-2H3;1H/q+1;/p-1
